US09415047B2
Preparation of 1-(4-(4-(1-cyclohexyl)piperazine-1-yl)butyl)-1H-benzimidazole (I-15)
1-(4-chlorobutyl)-1H-benzimidazole (7.51 g, 0.036 mol) was dissolved into 100 ml of acetonitrile, 4-(1-cyclohexyl) piperazine (5.1 g, 0.03 mol), diisopropylethylamine (15.5 g, 0.12 mol) and potassium iodide (5.0 g, 0.03 mol) were respectively added. The mixture was stirred for 10 min at ambient temperature, and then heated and refluxed to react for 20 hours. The mixture was cooled down to ambient temperature and filtered. The filtrate was concentrated to produce oily products, and treated by chromatography with neutral Al2O3, eluted with dichloromethane/methanol mixture to produce 6.4 g compound (I-15) with a yield of 62.9%. ESI-MS [M+H]+: m/z 341.3.

reactant | 1-(4-chlorobutyl)-1H-benzimidazole | 0.036 mol, 7.51 g | ClCCCCN1C=NC2=C1C=CC=C2 | C11H13ClN2
reactant | 4-(1-cyclohexyl) piperazine | 0.03 mol, 5.1 g | C1(CCCCC1)N1CCNCC1 | C10H20N2
reactant | diisopropylethylamine | 0.12 mol, 15.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 0.03 mol, 5.0 g | [I-].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-(4-(1-cyclohexyl)piperazine-1-yl)butyl)-1H-benzimidazole | 6.4 g, yield of 62.9% | C1(CCCCC1)N1CCN(CC1)CCCCN1C=NC2=C1C=CC=C2 | C21H32N4
